US05151441
2. 3-Bromo-2-methylbenzyl alcohol
A solution of 40.7 g of sodium nitrate in 300 ml of water is added dropwise to a mixture cooled to 0° C. and consisting of 888 ml of water, 162 ml of 47% strength hydrobromic acid and 81.2 g of 3-amino-2-methylbenzyl alcohol. Stirring is carried out for 30 minutes at 0° C., after which a suspension of 168.7 g of copper(I) bromide in 750 ml of water is added a little at a time at this temperature. The reaction mixture is stirred in succession for 1 hour at 10° C, for 1 hour at room temperature and for 2 hours at 100° C. After cooling, the reaction mixture is extracted several times with ether. The combined organic phases are washed with water, dried and evaporated down. After purification by column chromatography over silica gel using toluene as the mobile phase, 64.2 g of 3-bromo-2-methylbenzyl alcohol of melting point 97°-100 ° C. are obtained.

reactant | sodium nitrate | 40.7 g | [N+](=O)([O-])[O-].[Na+]
reactant | hydrobromic acid | Br | BrH
reactant | 3-amino-2-methylbenzyl alcohol | 81.2 g | NC=1C(=C(CO)C=CC1)C | C8H11NO
solvent | water | 300 ml | O | H2O
solvent | water | 750 ml | O | H2O
catalyst | copper(I) bromide | 168.7 g | [Cu]Br
solvent | water | 888 ml | O | H2O
product | 3-Bromo-2-methylbenzyl alcohol | BrC=1C(=C(CO)C=CC1)C | C8H9BrO
